US09145392B2
A mixture of 4-[1-(2-Azetidin-1-yl-ethyl)-4-bromo-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (8800.00 mg; 21.29 mmol; 1.00 eq.), 4-fluoro-3-methylphenylboronic acid (3932.91 mg; 25.55 mmol; 1.20 eq.) and Cs2CO3 (13872.97 mg; 42.58 mmol; 2.00 eq.) in doxane (80 ml) and water (8 ml) was purged by argon for 10 min, then Bis(tri-t-butylphosphine)palladium(0) (435.20 mg; 0.85 mmol; 0.04 eq.) was added under argon flow and purged by argon for 1 min. The resulting mixture was stirred at 50 C overnight. The reaction solution was diluted with ethyl acetate 250 ml, washed with brine-100 ml×2. The organic layer was dried and concentrated to afford the crude product which is purified by biotage Ki-Sil column to yield 4-[1-(2-azetidin-1-yl-ethyl)-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (9370.00 mg; 99% yield).

reactant | 4-[1-(2-Azetidin-1-yl-ethyl)-4-bromo-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 21.29 mmol, 8800.00 mg, 1.00 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(C=C(N1)Br)CCN1CCC1 | C18H29BrN4O2
reactant | 4-fluoro-3-methylphenylboronic acid | 25.55 mmol, 3932.91 mg, 1.20 eq. | FC1=C(C=C(C=C1)B(O)O)C | C7H8BFO2
reactant | Cs2CO3 | 42.58 mmol, 13872.97 mg, 2.00 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Bis(tri-t-butylphosphine)palladium(0) | 0.85 mmol, 435.20 mg, 0.04 eq. | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | water | 8 ml | O | H2O
product | 4-[1-(2-azetidin-1-yl-ethyl)-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 9370.00 mg, 99% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCN1CCC1 | C25H35FN4O2
